US06358945B1
A solution of dimethyl indoline (65 mg, 0.44 mmol) and triethylamine (0.12 mL, 0.88 mmol) in dry dichloromethane (3 mL) was treated with acetyl chloride (0.05 mL, 0.66 mmol) at 0° C. The mixture was allowed to warm to room temperature and was stirred for 16 h. Then the reaction mixture was quenched with water and the product was extracted into ether. The organic layer was washed with water and brine, dried (sodium sulfate) filtered and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluent: 30% EtOAc in hexanes) to give N-acetyl dimethyl indoline as a light yellow oil (68 mg, 82%).

reactant | dimethyl indoline | 0.44 mmol, 65 mg | CC1N(C2=CC=CC=C2C1)C | C10H13N
reactant | triethylamine | 0.88 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.66 mmol, 0.05 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-acetyl dimethyl indoline | 68 mg, 82% | C(C)(=O)N1C(CC2=CC=CC=C12)(C)C | C12H15NO
